US04223137
5.8 g of 5-(1-hydroxy-2-isopropylaminobutyl)-8-hydroxycarbostyril was dissolved in 150 ml of methanol, and a 15% methanolic solution of sodium methylate was added to the solution in an equimolar amount relative to the starting carbostyryl compound. The mixture was concentrated to dryness and the resulting residue was dissolved in 100 ml of dimethylformamide. 3.0 g of p-toluylic acid chloride was added to the solution while cooling with ice-water, and the resulting mixture was stirred for 1.5 hours at room temperature. The precipitate formed was separated by filtration, and washed successively with dimethylformamide and diethyl ether to obtain 4.2 g of 5-(1-hydroxy-2-isopropylaminobutyl)-8-p-methylbenzoyloxycarbostyril having a melting point of 197°-198° C. (after recrystallization from chloroform-diethyl ether).

reactant | 5-(1-hydroxy-2-isopropylaminobutyl)-8-hydroxycarbostyril | 5.8 g | OC(C(CC)NC(C)C)C1=C2C=CC(NC2=C(C=C1)O)=O | C16H22N2O3
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
product | 5-(1-hydroxy-2-isopropylaminobutyl)-8-p-methylbenzoyloxycarbostyril | 4.2 g | OC(C(CC)NC(C)C)C1=C2C=CC(NC2=C(C=C1)OC(C1=CC=C(C=C1)C)=O)=O | C24H28N2O4
